US07396844B1
Synthesis of 3-hydroxy-4-iodobenzonitrile
22.3 g (89.7 mmol) of 3-hydroxy-4-iodobenzoic acid was dissolved in 300 ml of tetrahydrofuran. 19.7 ml (206 mmol) of ethyl chloroformate and 28.7 ml (206 mmol) of triethylamine was added to the solution at 0° C. After stirring for 15 minutes, the obtained triethylamine hydrochloride was taken by the filtration. The filtrate was added to 300 ml of tetrahydrofuran solution, in which ammonia had been bubbled, at 0° C. After stirring at room temperature for 18 hours, the solvent was evaporated under reduced pressure. The residue was dissolved in 450 ml of dioxane. 17.4 ml (117 mmol) of Trifluoromethanesulfonic anhydride and 21.8 ml (269 mmol) of pyridine were added to the solution at 0° C. After stirring at room temperature for 18 hours, the solvent was evaporated under reduced pressure. The residue was treated with chloroform as the extractant by an ordinary method to obtain an oily residue. This residue was dissolved in 180 ml of tetrahydrofuran/methanol (1:1). 90 ml (90.0 mmol) of 1 N aqueous sodium hydroxide solution was added to the solution at room temperature. After stirring under these conditions for 4 hours, the solvent was evaporated under reduced pressure, and the residue was washed with dichloromethane. The residue was acidified with 1 N aqueous hydrogen chloride solution, and treated with ethyl acetate as the extractant by an ordinary method to obtain the crude product, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-hydroxy-4-iodobenzoic acid | 89.7 mmol, 22.3 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | ethyl chloroformate | 206 mmol, 19.7 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 206 mmol, 28.7 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 117 mmol, 17.4 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 269 mmol, 21.8 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | 90.0 mmol, 1 N, 90 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran methanol | 180 ml | O1CCCC1.CO
product | 3-hydroxy-4-iodobenzonitrile | OC=1C=C(C#N)C=CC1I | C7H4INO
